US04564612
Ethyl 3(R)-(5-benzyloxycarbonylamino-1-ethoxycarbonylpentyl)amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate hydrochloride (55 mg) obtained in Example 52-(1) is dissolved in a mixture of ethanol (3 ml) and 1N aqueous sodium hydroxide (2 ml). The solution is allowed to stand for 1 hour at room temperature, diluted with water (50 ml) and extracted with ethyl ether (20 ml). The aqueous layer is acidified to pH 4 with 1N hydrochloric acid, saturated with ammonium chloride and extracted ten times with ethyl acetate (20 ml each). The extract is washed with a small amount of water, dried over anhydrous magnesium sulfate and concentrated to dryness under reduced pressure to yield 3(R)-(5-benzyloxycarbonylamino-1-carboxypentyl)amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid (40 mg) as colorless powder.

reactant | Ethyl 3(R)-(5-benzyloxycarbonylamino-1-ethoxycarbonylpentyl)amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate hydrochloride | 55 mg | Cl.C(C1=CC=CC=C1)OC(=O)NCCCCC(C(=O)OCC)N[C@H]1CSC2=C(N(C1=O)CC(=O)OCC)C=CC=C2
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 3(R)-(5-benzyloxycarbonylamino-1-carboxypentyl)amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid | 40 mg | C(C1=CC=CC=C1)OC(=O)NCCCCC(C(=O)O)N[C@H]1CSC2=C(N(C1=O)CC(=O)O)C=CC=C2 | C25H29N3O7S
